US04761410
To a mixture of benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(4-methyl-5-oxo-6-hydroxy-4,5-dihydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylate (syn isomer) (1.20 g) and anisole (2.5 ml) in methylene chloride (2.5 ml) was added trifluoroacetic acid (5 ml) under ice-cooling. After being stirred for 30 minutes, the mixture was poured into diisopropyl ether (50 ml). The resultant mixture was adjusted to pH 7 with an aqueous solution of sodium bicarbonate. The separated aqueous layer was washed with ethyl acetate, acidified with 6N hydrochloric acid and extracted with a mixture of tetrahydrofuran and ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried and evaporated under reduced pressure. The residue was triturated in diethyl ether and collected by filtration to give 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(4-methyl-5-oxo-6-hydroxy-4,5-dihydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (600 mg).

reactant | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(4-methyl-5-oxo-6-hydroxy-4,5-dihydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylate | 1.20 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(C(N2C)=O)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC(F)F | C50H40F2N8O7S3
reactant | anisole | 2.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(4-methyl-5-oxo-6-hydroxy-4,5-dihydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylic acid | 600 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(C(N2C)=O)O)C(=O)O)C1=O)=NOC(F)F | C18H16F2N8O7S3
